US09126896B2
Synthesis of N-(3-ethoxy-1-methyl-3-oxoprop-1-enyl)-L-valine potassium salt
L-Valine (117.2 g, 1.0 mol), KOH (85%, 66.0 g, 1 mol) and ethyl 3-oxobutanoate (140.2 mL, 1.1 mol) are dissolved in isopropyl acetate (1 L). The reaction mixture is heated to reflux using a Dean-Stark apparatus. 32 mL water are isolated during 1.75 h. A small quantity of precipitate is formed. 500 mL are distilled off.

reactant | L-Valine | 1.0 mol, 117.2 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | KOH | 1 mol, 66.0 g | [OH-].[K+]
reactant | ethyl 3-oxobutanoate | 1.1 mol, 140.2 mL | O=C(CC(=O)OCC)C | C6H10O3
reactant | water | 32 mL | O | H2O
solvent | isopropyl acetate | 1 L | C(C)(=O)OC(C)C | C5H10O2
product | N-(3-ethoxy-1-methyl-3-oxoprop-1-enyl)-L-valine potassium salt | [K+].C(C)OC(C=C(C)N[C@@H](C(C)C)C(=O)[O-])=O | InChI=1S/C11H19NO4.K/c1-5-16-9(13)6-8(4)12-10(7(2)3)11(14)15;/h6-7,10,12H,5H2,1-4H3,(H,14,15);/q;+1/p-1/t10-;/m0./s1
